US07951811B2
Synthesis of {1-[1-(4-bromo-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]piperidin-4-yl}acetic acid ethyl ester hydrochloride (compound 1-050)
To a solution of {1-[1-(4-bromo-2,6-dimethyl-phenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]-piperidin-4-yl}-acetic acid (100 mg) in CHCl3 (4 mL) in an ice cooling bath was added ethanol (20 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (61 mg), and dimethylaminopyridine (26 mg), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into ethyl acetate and water, and separated. The organic phase was washed with brine, dried over Na2SO4, and filtered. The filtrate was concentrated under reduced pressure and the residue was purified with column chromatography (silica gel: Wako gel C200, eluent: hexane:ethyl acetate=4/1) to obtain {1-[1-(4-bromo-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]piperidin-4-yl}acetic acid ethyl ester (99 mg). {1-[1-(4-Bromo-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]piperidin-4-yl}acetic acid ethyl ester was dissolved in ethanol (2 mL) and 4 M HCl in ethyl acetate solution (60 μL) was added into the solution with cooling in an ice bath. After stirring at room temperature, the reaction mixture was concentrated under reduced pressure, and the residue was crystallized from diisopropylether (1 mL). The crystal was collected by filtration to obtain the title compound. (95 mg)

reactant | {1-[1-(4-Bromo-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]piperidin-4-yl}acetic acid ethyl ester | C(C)OC(CC1CCN(CC1)C1=C2C(=NC(=C1)C)N(C=C2C)C2=C(C=C(C=C2C)Br)C)=O | C26H32BrN3O2
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethyl acetate | 60 μL | C(C)(=O)OCC | C4H8O2
product | {1-[1-(4-bromo-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]piperidin-4-yl}acetic acid ethyl ester hydrochloride | Cl.C(C)OC(CC1CCN(CC1)C1=C2C(=NC(=C1)C)N(C=C2C)C2=C(C=C(C=C2C)Br)C)=O | InChI=1S/C26H32BrN3O2.ClH/c1-6-32-23(31)14-20-7-9-29(10-8-20)22-13-19(5)28-26-24(22)18(4)15-30(26)25-16(2)11-21(27)12-17(25)3;/h11-13,15,20H,6-10,14H2,1-5H3;1H
